US06963007B2
In a glass reaction vessel, a suspension of 120 milligrams of sodium hydride was prepared in 10 milliliters dry DMF and 972 milligrams of 5,7-dodecadiyn-1,12-diol (HO(CH2)4C≡C—C≡C(CH2)4OH), was added. After stirring for 5 minutes 1.31 grams of CH3(CH2)11Br was added and the resulting mixture was stirred for 15 hours. The mixture was then quenched by addition of saturated NH4Cl solution and diluted with 100 milliliters of diethyl ether. The organic layer was separated and washed 3 times with brine, dried over MgSO4, filtered and the solvent was removed to yield a yellow oil. The oil was purified over silica gel (25%-35% by volume of ethyl acetate in hexanes gradient) to yield 606 milligrams of HO(CH2)4C≡C—C≡C(CH2)4O(CH2)11CH3 as a white solid.

reactant | sodium hydride | 120 milligrams | [H-].[Na+]
reactant | CH3(CH2)11Br | 1.31 grams | CCCCCCCCCCCCBr | C12H25Br
reactant | 5,7-dodecadiyn-1,12-diol | 972 milligrams | C(CCCC#CC#CCCCCO)O | C12H18O2
solvent | DMF | 10 milliliters | CN(C)C=O | C3H7NO
product | HO(CH2)4C≡C—C≡C(CH2)4O(CH2)11CH3 | 606 milligrams | OCCCCC#CC#CCCCCOCCCCCCCCCCCC | C24H42O2
